US04083837
PREPARATION OF PHENYL-2-THIENYLDIAZOMETHANE
To a mixture of phenyl-2-thienyl ketone hydrazone (20.2 g; 0.1 mole), and pyridine (24.8 ml; 0.307 mole) in N,N-dimethylacetamide (100 ml) stirred and cooled to 15° was added peracetic acid (17.7 ml of a 38% w/w solution in glacial acetic acid; 0.1 mole) during 40 minutes, the temperature being maintained at +15° throughout.

reactant | phenyl-2-thienyl ketone hydrazone | 0.1 mole, 20.2 g | C1(=CC=CC=C1)C(C=1SC=CC1)=NN | C11H10N2S
reactant | pyridine | 0.307 mole, 24.8 ml | N1=CC=CC=C1 | C5H5N
reactant | peracetic acid | C(C)(=O)OO | C2H4O3
solvent | N,N-dimethylacetamide | 100 ml | CN(C(C)=O)C | C4H9NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | PHENYL-2-THIENYLDIAZOMETHANE | C1(=CC=CC=C1)C(=[N+]=[N-])C=1SC=CC1 | C11H8N2S
